US05559256
Benzylchloroformate (0.35 ml; 2.3 mmol) was added to a mixture of L-allothreonine (0.25 g; 2.1 mmol) and NaHCO3 (435 mg; 5.18 mmol) in 2.5 ml of H2O at RT. After 3 h, the reaction mixture was partitioned between Et2O and H2O. The aqueous layer was washed with Et20, acidified to pH <2 with 6N HCl, and extracted with CH2Cl2. The organic layer was dried (MgSO4) and concentrated to afford 320 mg (63%) of Cbz-L-allothreonine.

reactant | Benzylchloroformate | 2.3 mmol, 0.35 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | L-allothreonine | 2.1 mmol, 0.25 g | N[C@@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 5.18 mmol, 435 mg | C(=O)(O)[O-].[Na+]
solvent | H2O | 2.5 ml | O | H2O
product | Cbz-L-allothreonine | 320 mg, 63% | C(=O)(OCC1=CC=CC=C1)N[C@@H]([C@@H](O)C)C(=O)O | C12H15NO5
